US09216173B2
TFA (1.0 ml, 13 mmol) was added to a solution of tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-phenylpyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate (24 mg, 0.048 mmol) in DCM (2 ml). The reaction mixture was stirred for 30 minutes at room temperature. The reaction mixture was concentrated under reduced pressure to afford 5-((1R,2S)-2-aminocyclohexylamino)-3-(6-methyl-4-phenylpyridin-2-ylamino)picolinonitrile. The material was used in the next step without further purification. MS ESI calc'd. for C24H27N6 [M+H]+ 399. found 399.

reactant | TFA | 13 mmol, 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-phenylpyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate | 0.048 mmol, 24 mg | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C1=CC=CC=C1)C | C29H34N6O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(6-methyl-4-phenylpyridin-2-ylamino)picolinonitrile | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC(=CC(=C1)C1=CC=CC=C1)C | C24H26N6
